US05242828
I.3.3 Synthesis of theophylline surface
A solution of 5 mM 8-(3-aminopropyl)-theophylline (R.C. Boguslaski et al., 1980) in 0.1 M carbonate buffer, pH 8.0, was incubated with an N-hydroxysuccinimide ester activated dextran surface (according to Example I.3.2) overnight at 25° C., whereupon the surface was washed with water.

reactant | 8-(3-aminopropyl)-theophylline | 5 mM | NCCCC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C10H15N5O2
solvent | carbonate | 0.1 M | C([O-])([O-])=O
product | theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
